US06734179B2
0.30 g (0.60 mMol) 4-{2-[(2-chloro-pyridine-4-carbonyl)-amino]-4-methoxy-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester were heated to 130° C. for 24 h in 1 ml morpholine and 0.39 g (1.2 mMol) cesium carbonate. The morpholin has been removed in vacuo. The residue has been triturated in ethyl acetate and subsequently subjected to column chromatography (ethyl acetate) to yield 0.15 g (45%) 4-{4-methoxy-2-[(2-morpholin-4-yl-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester as a yellow foam. ES-MS m/e (%): 552 ([M+H]−, 100).

reactant | 4-{2-[(2-chloro-pyridine-4-carbonyl)-amino]-4-methoxy-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.60 mMol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C2=CC(=NC=C2)Cl)OC | C24H25ClN4O4S
reactant | cesium carbonate | 1.2 mMol, 0.39 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | morpholine | 1 ml | N1CCOCC1 | C4H9NO
product | 4-{4-methoxy-2-[(2-morpholin-4-yl-pyridine-4-carbonyl)-amino]-benzothiazol-7-yl}-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.15 g, 45% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC=C(C=2N=C(SC21)NC(=O)C2=CC(=NC=C2)N2CCOCC2)OC | C28H33N5O5S
